US05506234
1.2 g of 6-phenethyl-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester is mixed in 25 ml of dry toluene with 2.5 ml of triethylamine and 0.78 ml of chlorotrimethylsilane and heated for 1 hour to 50° C. solution temperature. After concentration by evaporation to about half it is cooled to -78° C. and 5 ml of a 1.2 molar diisobutylaluminium hydride solution is instilled. It is stirred for 30 minutes at -78° C., mixed with 1.2 ml of ethanol and allowed to come to room temperature. 10.2 ml of 0.5-N NaOH and 10.2 ml of ethanol are added to the batch and stirred for 2.5 hours at room temperature. The batch is added to 35 ml of glacial acetic acid and extracted three times from ethyl acetate. The organic phase is washed in succession with dilute ammonia and saturated common salt solution, dried, filtered and concentrated by evaporation. The residue is chromatographed on silica gel with methylene chloride:ethanol=1:1 and 720 mg of 6-phenethyl-4-methoxymethyl-β-carboline-3-carbaldehyde is obtained, that in 8 ml of dimethylformamide is mixed in succession with 322 mg of hydroxylaminehydrochloride, 1.6 ml of ethanol, 322 mg of powdered potassium hydroxide and refluxed for 3 hours. Suctioning off yields 740 mg of 6-phenylethyl-4-methoxymethyl-β-carboline-3-carbaldehyde aldoxime of a melting point of 197°-198° C. This oxime is dissolved in 26 ml of dimethylformamide and mixed with a solution of 381 mg of N-bromosuccinimide in 3.4 ml of dimethylformamide and stirred for 15 minutes at room temperature. 1.38 ml of triethylamine and 0.26 ml of methylpropargly ether is added to the batch and stirred for 7 hours at room temperature. After concentration by evaporation it is spread in ethyl acetate/water and the organic phase is dried, filtered and concentrated by evaporation. The residue is chromatographed on silica gel with toluene:ethanol=9:1. After combining and concentrating by evaporation the corresponding fractions and recrystallization 251 mg (30% of theory) of 6-phenethyl-4-methoxymethyl-3-(5-methoxymethyl-isoxazol-3-yl)-β-carboline, of a melting point of 133°-135° C. (ethyl acetate) is obtained.

reactant | 6-phenethyl-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester | 1.2 g | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)CCC1=CC=CC=C1 | C25H26N2O3
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 0.78 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 6-phenethyl-4-methoxymethyl-β-carboline-3-carbaldehyde | 720 mg | C(CC1=CC=CC=C1)C=1C=C2C=3C(=C(N=CC3NC2=CC1)C=O)COC | C22H20N2O2
